US06093714
Active manganese dioxide (8.0 g) was added to a solution of 3,4,5-trimethoxy-2-nitrobenzyl alcohol (1.01 g, 4.15 mmol), prepared in the step (a), in methylene chloride (15 ml), and the mixture was stirred at room temperature overnight. Further, active manganese dioxide (8.0 g) was added thereto, and the mixture was stirred at room temperature for 8 hr. The reaction mixture was filtered through Celite, and the solvent was removed under reduced pressure to give 3,4,5-trimethoxy-2-nitrobenzaldehyde (300 mg, 30%) as colorless powder.

reactant | 3,4,5-trimethoxy-2-nitrobenzyl alcohol | 4.15 mmol, 1.01 g | COC=1C(=C(CO)C=C(C1OC)OC)[N+](=O)[O-] | C10H13NO6
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 8.0 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 8.0 g | [O-2].[O-2].[Mn+4]
product | 3,4,5-trimethoxy-2-nitrobenzaldehyde | 300 mg, 30% | COC=1C(=C(C=O)C=C(C1OC)OC)[N+](=O)[O-] | C10H11NO6
